US09193723B2
tert-butyl 4-{4-[(3-chloroimidazo[1,2-a]pyridin-6-yl)carbamoyl]phenyl}piperidine-1-carboxylate
A solution of tert-butyl 4-(4-(imidazo[1,2-a]pyridin-6-ylcarbamoyl)phenyl)piperidine-1-carboxylate (0.015 g, 0.036 mmol) in chloroform (0.618 ml) and methanol (0.095 ml) was treated with N-chlorosuccinimide (5.24 mg, 0.039 mmol) and the reaction was stirred at ambient temperature for 16 hours. The reaction mixture was concentrated under a stream of warm nitrogen. The residue was purified by normal phase flash chromatography to provide the title compound. 1H NMR (500 MHz, methanol-d4) δ ppm 9.23 (s, 1H), 7.93 (d, J=8.3 Hz, 2H), 7.62-7.51 (m, 3H), 7.42 (d, J=8.3 Hz, 2H), 4.27-4.19 (m, 2H), 2.96-2.76 (m, 3H), 1.90-1.82 (m, 2H), 1.70-1.57 (m, 2H), 1.48 (s, 9H); MS (ESI(+)) m/e 455 (M+H)+.

reactant | tert-butyl 4-(4-(imidazo[1,2-a]pyridin-6-ylcarbamoyl)phenyl)piperidine-1-carboxylate | 0.036 mmol, 0.015 g | N=1C=CN2C1C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C24H28N4O3
reactant | N-chlorosuccinimide | 0.039 mmol, 5.24 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 0.618 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.095 ml | CO | CH4O
product | tert-butyl 4-{4-[(3-chloroimidazo[1,2-a]pyridin-6-yl)carbamoyl]phenyl}piperidine-1-carboxylate | ClC1=CN=C2N1C=C(C=C2)NC(=O)C2=CC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C24H27ClN4O3
